US07767650B2
a. Preparation of 3-Bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-1-ol
60 g (347 mmol) of 3-bromophenol are dissolved in 600 mL of dichloromethane. This solution is added to a solution of 46 g (347 mmol) of aluminum chloride in 200 mL of dichloromethane. 127 g (694 mmol) of 2,5-dichloro-2,5-dimethylhexane are added in 10 g portions every 40 minutes. The medium is then stirred for 10 hours, after which it is poured onto ice and extracted with dichloromethane. The residue obtained is dissolved in ethyl ether and this organic phase is then washed with 1N sodium hydroxide solution, and then with water. The residue obtained is purified by chromatography (eluent:heptane and then 1/1 heptane/dichloromethane). A thick oil is obtained (67 g; yield=68%).

reactant | 3-bromophenol | 347 mmol, 60 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | aluminum chloride | 347 mmol, 46 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,5-dichloro-2,5-dimethylhexane | 694 mmol, 127 g | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-Bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-1-ol | yield=68% | BrC=1C=C(C=2C(CCC(C2C1)(C)C)(C)C)O | C14H19BrO
